US04146554
(S)-3-Phenoxymandelic acid (13.0 g) was added to a solution of dry hydrogen chloride (15.0 g) in methanol (100 ml) and the solution thus obtained kept at the ambient temperature for 24 hours after which period the volatile portion was evaporated yielding methyl (S)-3-phenoxymandelate as a residual oil. This was then added to liquid ammonia (20 ml) in a pressure vessel which was then sealed and temperature of the mixture allowed to rise to the ambient temperature over a period of 24 hours. The vessel was then opened and the excess of ammonia allowed to evaporate. The residual material was stirred with water and the solid collected by filtration, and recrystallised from benzene (70 ml) to yield impure (S)-3-phenoxymandelamide, m.p. 93° C. [α]D25 + 25.4° (C, 2.0, methanol), (approximately 80% optically pure).

reactant | (S)-3-Phenoxymandelic acid | 13.0 g | O(C1=CC=CC=C1)C=1C=C([C@@H](C(=O)O)O)C=CC1 | C14H12O4
reactant | hydrogen chloride | 15.0 g | Cl | ClH
reactant | methanol | 100 ml | CO | CH4O
product | methyl (S)-3-phenoxymandelate | O(C1=CC=CC=C1)C=1C=C([C@@H](C(=O)OC)O)C=CC1 | C15H14O4
